US04260772
8-Chloro-6-phenyl-2H,4H-[1,2,3]triazolo[4,5-d][2]benzazepine
A mixture of 3 g (8.9 mmole) of 4-azidomethyl-5-[4-chloro-2-(benzoyl)phenyl]-2H-1,2,3-triazole and about 3 teaspoonsful of Raney nickel in 150 ml of ethanol was shaken in a Parr bottle with an initial hydrogen pressure of 5 p.s.i. for 1 hr. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to give 2 g of gummy solid. The residue was chromatographed over silica gel using a 1:1 mixture of ethyl acetate and methylene chloride as eluent. Evaporation of the solvent gave a gum which crystallized from a small amount of ethyl acetate to give white crystals. Recrystallization from a mixture of ethyl acetate and petroleum ether gave colorless prisms, mp 203°-205° C.

reactant | 4-azidomethyl-5-[4-chloro-2-(benzoyl)phenyl]-2H-1,2,3-triazole | 8.9 mmole, 3 g | N(=[N+]=[N-])CC1=NNN=C1C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C16H11ClN6O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8-Chloro-6-phenyl-2H,4H-[1,2,3]triazolo[4,5-d][2]benzazepine | 2 g | ClC1=CC2=C(C=3C(CN=C2C2=CC=CC=C2)=NNN3)C=C1 | C16H11ClN4
